US05703158
143.1 g of Rucoflex XS-5570-55, 154 g of Rucoflex S-1011-55 and 6.7 g of DMPA are reacted with 44.4 g of IPDI and 16.8 g of HDI at 80° C. for 3 hours to prepare a prepolymer. The prepolymer is then dispersed in a solution of 2.5 g of NaOH and 1.83 g of EA in 600.0 g of water. After 5 minutes, a solution of 1.8 g of EDA and 2.04 g of DETA in 50.0 g of water is added to form a poly(urethane/urea) dispersion. A finely divided dispersion having solids content of 36.5% and a pH of 7.5 is obtained.

reactant | DMPA | 6.7 g | CC(C)NP(=S)(OC)OC1=C(C=C(C=C1)Cl)Cl | C10H14Cl2NO2PS
reactant | IPDI | 44.4 g | CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C | C12H18N2O2
reactant | NaOH | 2.5 g | [OH-].[Na+]
reactant | DETA | 2.04 g | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
solvent | water | 600.0 g | O | H2O
solvent | water | 50.0 g | O | H2O
solvent | EA | 1.83 g | CC(OCC)=O | C4H8O2
product | urethane urea | NC(=O)OCC.NC(=O)N | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
